US08669266B2
(iv) 2-[(S)-3-tert-Butoxycarbonyl-1-(4-ethoxycarbonyl-piperazine-1-carbonyl)-propylcarbamoyl]-quinoline-4-carboxylic acid
To a solution of 1.1 g of 2-[(S)-3-tert-Butoxycarbonyl-1-(4-ethoxycarbonyl-piperazine-1-carbonyl)-propylcarbamoyl]-quinoline-4-carboxylic acid ethyl ester in 10 ml of THF, 2 ml of a 1 M aqueous NaOH solution was added. After stirring for 5 h at RT additional 1 ml of a 1 M aqueous NaOH solution was added and allowed to stir upon completion of the reaction. Then, the reaction was acidified to pH 1 with diluted aqueous hydrochloric acid and extracted with DCM (3×100 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was used in the next reaction step without further purification. Yield: 1.0 g.

reactant | 2-[(S)-3-tert-Butoxycarbonyl-1-(4-ethoxycarbonyl-piperazine-1-carbonyl)-propylcarbamoyl]-quinoline-4-carboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)C1=CC(=NC2=CC=CC=C12)C(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C(=O)OCC)=O | C29H38N4O8
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[(S)-3-tert-Butoxycarbonyl-1-(4-ethoxycarbonyl-piperazine-1-carbonyl)-propylcarbamoyl]-quinoline-4-carboxylic acid | C(C)(C)(C)OC(=O)CC[C@@H](C(=O)N1CCN(CC1)C(=O)OCC)NC(=O)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C27H34N4O8
